US06248739B1
N-(4-Chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-[(phenylsulfinyl)methyl]-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-[(phenylsulfanyl)methyl)-1,4-dihydro-3-quinolinecarboxamide (0.08 gm) from Example No. 76 in dichloromethane (2 mL) at 0° C. is added p-toluenesulfonic acid hydrate (0.03 gm) followed by m-chloroperoxybenzoic acid (˜85%) (0.03 gm). The mixture is stirred for 1 hr. The reaction mixture is diluted with dichloromethane, washed with saturated aqueous sodium sulfite, saturated aqueous sodium bicarbonate, brine, dried (Na2SO4) and concentrated under reduced pressure. The crude product is purified by recrystallization from acetonitrile to afford 0.06 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-[(phenylsulfanyl)methyl)-1,4-dihydro-3-quinolinecarboxamide | 0.08 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CSC2=CC=CC=C2)C=C1 | C29H28ClN3O3S
reactant | p-toluenesulfonic acid hydrate | 0.03 gm | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | m-chloroperoxybenzoic acid | 0.03 gm | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(4-Chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-[(phenylsulfinyl)methyl]-1,4-dihydro-3-quinolinecarboxamide | 0.06 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CS(=O)C2=CC=CC=C2)C=C1 | C29H28ClN3O4S
